US07256304B2
In a similar apparatus used in Example 1 were charged 0.98 g (10 mmol) of 2-hydroxyimino-3-oxopropionitrile synthesized by the same method as in Example 1 and 6 ml of methanol, and the mixture was cooled to 5° C. while stirring. Then, 0.80 g (10 mmol) of 95% by weight 2-hydroxyethylhydrazine was added to the mixture at the same temperature, and reacted at room temperature for 1 hour. After completion of the reaction, the reaction mixture was concentrated under reduced pressure, hexane was added to the concentrate, the resulting mixture was filtered and dried under reduced pressure to give 1.55 g (isolation yield: 99%) of 3-(2-hydroxyethyl)hydrazono-2-hydroxyiminopropionitrile as dark brownish solid.

reactant | 2-hydroxyimino-3-oxopropionitrile | 10 mmol, 0.98 g | ON=C(C#N)C=O | C3H2N2O2
reactant | 2-hydroxyethylhydrazine | OCCNN | C2H8N2O
solvent | methanol | 6 ml | CO | CH4O
product | 3-(2-hydroxyethyl)hydrazono-2-hydroxyiminopropionitrile | 1.55 g, yield: 99% | OCCNN=CC(C#N)=NO | C5H8N4O2
